US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}-N-(3-phenoxypropyl)amine
N1-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}-3-phenoxypropaneamide (200 mg) was dissolved in tetrahydrofuran (10 ml) to prepare a solution. A 1 M solution (1.3 ml) of a borane-tetrahydrofuran complex in tetrahydrofuran was then added to the solution, and the mxitue was stirred with heating under reflux for 2 hr. The reaction solution was cooled to 0° C. and was adjusted to pH=1 by the addition of 1 N hydrochloric acid, followed by stirring with heating under reflux for 30 min. The reaction solution was cooled to 0° C., was adjusted to pH=12 by the addition of a 1 N aqueous sodium hydroxide solution, and was extracted with chloroform. After the concentration of the extract, the residue was purified on a column using chloroform/methanol to give the title compound (155 mg, yield 80%).

reactant | N1-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}-3-phenoxypropaneamide | 200 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)NC(CCOC1=CC=CC=C1)=O)C)C | C28H28N2O5
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}-N-(3-phenoxypropyl)amine | 155 mg, yield 80% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)NCCCOC1=CC=CC=C1)C)C | C28H30N2O4
